* C:\Users\Adrian\Desktop\LTSpice\equalizer\archive\potentiometer_standard_test.asc
* Generated by LTspice 24.1.5 for Windows.
V2 N001 0 10V
V3 N002 0 10V
V4 N003 0 10V
V5 N004 0 10V
V6 N005 0 10V
V7 N006 0 10V
V8 N007 0 10V
X§U1 N001 0 lin pot_lin Rtot=10K wiper={wip}
X§U3 N002 0 pow pot_pow Rtot=10K wiper={wip} Rtap=1k tap=0.5
X§U4 N003 0 tab pot_tab Rtot=10K wiper={wip}
X§U5 N004 0 plog pot_plog Rtot=10K wiper={wip} Rtap=100 Tap=0.5
X§U6 N005 0 nlog pot_nlog Rtot=10K wiper={wip} Rtap=100 Tap=0.5
X§U7 N006 0 piher pot_piher_plog Rtot=10K wiper={wip}
X§U8 N007 0 radio pot_radiohm_plog Rtot=10K wiper={wip}
.OP
* FH MODIFICATION 9/20/12:\n  With the modified .asy file there is no need for ".INCLUDE potentiometer_standard.lib"
* A Collection Of Potentiometers              Helmut Sennewald,  V1.1\n \nA new symbol "potentiometer_standard.asy" has been generated for all the new potentiometers.\nPut this file into the LTSPICE installation path lib\\sym \\... or into your working directory.\nThe file "potentiometer_standard.lib" contains the X-subcircuits of all the potentiometers.\nThere iare linear, log. and an arbitrary models. I have included the old linear model "potentiometer" too.\nPut the file "potentiometer_standard.lib" into the folder \n...\\Progams\\Ltc\\SwCADIII\\lib\\sub\nor into the directory where the schematic "potentiometer_standard_test.asc" is. \nLTSPICE has to be restarted before the new symbol can be used.\n \n potentiometer :  equivalent function to potentiometer_standard, just the old symbol and model\npot_lin : ideal linear resistance dependency\npot_pow : ideal power function resistance dependency\npot_plog : ideal positive logarithm function resistance dependency\npot_nlog : ideal negative logarithm function resistance dependency\npot_tab: arbitrary(table) based resistance dependency\npot_piher_plog : pseudo logarithm function resistance dependency, Piher\npot_radiohm_plog : measured pseudo logarithm fucntion resistance dependency, Radiohm
* This example runs the simulation for a wiper setting from 0 to 1 in 0.01(1%) steps.
.STEP LIN PARAM wip  0  1.0  0.01
* The New Linear Potentiometer
* The Ideal Pos. Power "log" Potentiometer
* The Arbitrary Table Based Potentiometer
* How to select the model?\nMove the cursor over the potentiometer then click the right mouse button. \nNow the model name and the parameters can be changed. \nThe model file has to be loaded with a  .include potentiometer_standard.lib  statement.
* The Ideal Pos. Logarithm Potentiometer
* The Ideal Neg. Logarithm Potentiometer
* The Arbitrary Table Based Potentiometer
* The Arbitrary Table Based Potentiometer, RADIO100K-PLOG
* The pot_pow, pot_plog and pot_nlog  potentiometers need an additional reference value \nto specify the slope of the ratio.\nRtap: resistance at the refrence point\ntap: position of the wiper at resistance Rtap
* There is a ready to use plot definition file.\n1. Run the simulation\n2. Make the output window the active window.  (Click on it.)\n3. PlotSettings->Plot Settings   potentiometer_standard_test.plt
.lib potentiometer_standard.lib
.backanno
.end
